US04548946
2,3-Dihydro-1-(hydroxyimino)-3-phenyl-1H-indene
A mixture of 3-phenylindan-1-one (80 g), methanol (935 ml), water (90 ml), potassium carbonate (103.8 g), and hydroxylamine HCl (104.3 g) was heated at reflux for 16 hours, then poured into ice-water: the title compound was filtered, washed with water, with a small portion of ether, then dried in air. Yield: 74.7 g; m.p. 133°-139°.

reactant | 3-phenylindan-1-one | 80 g | C1(=CC=CC=C1)C1CC(C2=CC=CC=C12)=O | C15H12O
reactant | methanol | 935 ml | CO | CH4O
reactant | potassium carbonate | 103.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydroxylamine HCl | 104.3 g | Cl.NO
solvent | water | 90 ml | O | H2O
product | 2,3-Dihydro-1-(hydroxyimino)-3-phenyl-1H-indene | ON=C1CC(C2=CC=CC=C12)C1=CC=CC=C1 | C15H13NO
